US06455550B1
A solution of 4-nitro-N-[[1-(phenylmethyl)cyclopentyl]carbonyl]-L-phenylalanine methyl ester (185 mg, 0.45 mmol) in 10 mL of ethanol was hydrogenated at atmospheric pressure over 47 mg of 10% Pd(C) for 3 hours. The reaction mixture was filtered through a pad of celite and evaporated to dryness to give 4-amino-N-[[1-(phenylmethyl)cyclopentyl]carbonyl]-L-phenylalanine methyl ester (170 mg, 99%) of as a white solid suitable for use in the next step.

reactant | 4-nitro-N-[[1-(phenylmethyl)cyclopentyl]carbonyl]-L-phenylalanine methyl ester | 0.45 mmol, 185 mg | COC([C@@H](NC(=O)C1(CCCC1)CC1=CC=CC=C1)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C23H26N2O5
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 4-amino-N-[[1-(phenylmethyl)cyclopentyl]carbonyl]-L-phenylalanine methyl ester | 170 mg, 99% | COC([C@@H](NC(=O)C1(CCCC1)CC1=CC=CC=C1)CC1=CC=C(C=C1)N)=O | C23H28N2O3
